* Z:\mnt\design.r\spice\examples\3080-1.asc
R1 N003 0 165K
Rload N002 0 1.5
C1 N002 0 10µ
XU1 MP_01 N003 N002 N001 N001 LT3080-1
V1 N001 0 6
XU2 MP_02 N003 N002 N001 N001 LT3080-1
.tran 50u startup
.lib LT3080-1.sub
.backanno
.end
